* Z:\mnt\design.r\spice\examples\3587.asc
L1 IN N002 10µ
L2 IN N003 15µ
D1 N003 N004 PMEG6010AED
D2 N002 N001 PMEG6010AED
C1 N001 0 2.2µ
C2 N004 0 10µ
L3 IN N012 15µ
D3 N013 0 PMEG6010AED
C3 N013 N012 2.2µ
L4 OUT2 N013 15µ
V1 IN 0 4.25
R1 IN N007 100K
C4 OUT2 0 10µ
R2 OUT2 N011 1Meg
C5 OUT2 N011 6.8p
D4 N008 0 AOT-2015
R3 OUT1 N006 1Meg
C6 OUT1 N006 2.7p
R4 0 N005 8.06K
Rload1 OUT1 0 300
Rload2 OUT2 0 80
XU1 N008 N001 N002 0 N007 N011 MP_01 MP_02 N012 MP_03 N003 MP_04 N004 OUT1 N006 N009 IN N010 N005 0 LT3587
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 750u startup
K1 L3 L4 1.
.lib LT3587.sub
.backanno
.end
